US06087380
b) 1-Methyl-2-(N-tert.butoxycarbonyl-aminomethyl)-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide
10.0 g (0.02 mol) of 3-[(N-tert.butoxycarbonyl-amino)acetylamino]-4-methylamino-benzoic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide were dissolved in 50 ml of glacial acetic acid and refluxed for one hour. Then the solvent was distilled off, the residue was mixed with ice water and adjusted to pH 8 by the addition of 2N ammonia. After extraction three times with ethyl acetate the combined organic phases were washed with saline solution and dried over sodium sulphate. After evaporation of the solvent the crude product was chromatographed on silica gel, eluting first with methylene chloride, then with methylene chloride/ethanol (50:1) and (25:1). The desired fractions were combined and evaporated down. Yield: 5.85 g (61% of theory), C25H31N5O5 (481.6) Rf value: 0.70 (silica gel; methylene chloride/ethanol=9:1)

reactant | 3-[(N-tert.butoxycarbonyl-amino)acetylamino]-4-methylamino-benzoic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide | 0.02 mol, 10.0 g | N1=C(C=CC=C1)N(C(C1=CC(=C(C=C1)NC)NC(CNC(=O)OC(C)(C)C)=O)=O)CCC(=O)OCC | C25H33N5O6
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 1-Methyl-2-(N-tert.butoxycarbonyl-aminomethyl)-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC(=O)OC(C)(C)C)C)C=C1)CCC(=O)OCC | C25H31N5O5
